US06084095
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (138 mg, 0.72 mmole) and 4-aminoacetanilide (1.50 g, 10.0 mmole) is stirred under N2 at 200° C. for 1 h. The resulting product is chromatographed over alumina (8-10% MeOH/CH2Cl2) to give 7-amino-4-(4-acetamidoanilino)pyrido[4,3-d]pyrimidine (110 mg, 52%) as a pale yellow solid. 1H NMR (DMSO) δ 9.94, 9.79 (1H, 1H, 2 brs), 9.31 (1H, s), 8.34 (1H, s), 7.69 (2H, d, J=8.9 Hz), 7.57 (2H, d, J=8.9 Hz), 6.57 (2H, brs), 6.43 (1H, s), 2.05 (3H, s).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 0.72 mmole, 138 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | 4-aminoacetanilide | 10.0 mmole, 1.50 g | CC(=O)NC1=CC=C(C=C1)N | C8H10N2O
product | 7-amino-4-(4-acetamidoanilino)pyrido[4,3-d]pyrimidine | 110 mg, 52% | NC1=CC=2N=CN=C(C2C=N1)NC1=CC=C(C=C1)NC(C)=O | C15H14N6O
